.lib "models/sky130.lib.spice" tt

xm1 gnd in in gnd sky130_fd_pr__nfet_01v8 W=.65u L=.5u M=1
xm2 net-_m2-pad1_ in gnd gnd sky130_fd_pr__nfet_01v8 W=.65u L=.5u M=1
v2 out gnd  dc 15
* u1  net-_r1-pad2_ in plot_i2
* u2  net-_m2-pad1_ out plot_i2
r1  net-_r1-pad1_ net-_r1-pad2_ 300
v1 net-_r1-pad1_ gnd  dc 20
v_u1 net-_r1-pad2_ in 0
v_u2 net-_m2-pad1_ out 0
.tran 10e-00 100e-00 0e-00

* Control Statements 
.control
run
plot i(v_u1) i(v_u2)
.endc
.end